US07550484B2
COMPOUND 120: [4-(3,3″-Dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-yl)-butyl]-hydroxyurea
To a solution of 4-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridine-1′-yl)-butylamine (105 mg, 0.31 mmol) in THF (5 mL) was added 1,1′-carbonyldiimidazole (80 mg, 0.49 mmol) and after 40 min, the mixture was concentrated in vacuo. The residue was re-dissolved in DMF (5 mL) and treated with DIPEA (0.43 mL, 2.45 mmol) and NH2OH.H2O salt (136 mg, 1.96 mmol) and the reaction mixture was stirred overnight. Then the mixture was diluted with CH2Cl2 (25 mL) and washed with brine (5×15 mL). The organic layer was dried (MgSO4), filtered, and concentrated to afford a pale yellow oil. Purification by radial chromatography on silica gel (1 mm plate; using CH2Cl2/MeOH/NH4OH; 25:1:1→10:1:1) afforded the product as a white foam (54 mg, 44%). 1H NMR (CDCl3) δ 0.78 (br s, 4H), 1.53-1.68 (m, 3H), 1.92-2.07 (m, 3H), 2.14 (br s, 2H), 2.44 (s, 6H), 2.72 (br s, 3H), 3.96 (d, 2H), J=9.0 Hz), 5.64 (s, 1H), 7.08 (dd, 2H, J=6.0, 3.0 Hz), 7.44 (d, 2H, J=6.0 Hz), 8.46 (s, 3H), 10.35 (s, 1H). 13C NMR (CDCl3) δ 19.23, 23.18, 25.48,27.98, 31.87, 39.16, 51.27, 53.81, 64.16, 71.47, 122.42, 131.42, 139.24, 147.06, 160.33, 162.15. ES-MS m/z 398 [M+H]+. Anal. Calcd. for C22H31N5O2.0.3CH2Cl2: C, 63.32; H, 7.53; N, 16.56. Found: C, 63.13; H, 7.68; N, 16.46.

reactant | 4-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridine-1′-yl)-butylamine | 0.31 mmol, 105 mg | CC=1C(=NC=CC1)C1N(C(CCC1)C1=NC=CC=C1C)CCCCN | C21H30N4
reactant | 1,1′-carbonyldiimidazole | 0.49 mmol, 80 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | DIPEA | 2.45 mmol, 0.43 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NH2OH.H2O | 1.96 mmol, 136 mg | NO.O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | [4-(3,3″-Dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-yl)-butyl]-hydroxyurea | 54 mg, 44% | CC=1C(=NC=CC1)C1N(C(CCC1)C1=NC=CC=C1C)CCCCN(C(=O)N)O | C22H31N5O2
